US07414049B2
a) [(S)-7,8-Difluoro-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester
A solution of 200 mg of ((S)-7,8-difluoro-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester in 7 ml of tetrahydrofurane was cooled to −78° C. under an argon atmosphere. Thereafter, the solution was treated with 0.62 ml of lithium bis(trimethylsilyl)amide (1 M solution in tetrahydrofurane), stirred for 30 min at −78° C., then warmed to room temperature before 0.13 ml of 2,2,2-trifluoroethyl trifluoromethanesulphonate were added to the reaction mixture. After stirring overnight in a sealed flask, another 0.05 ml of 2,2,2-trifluoroethyl trifluoromethanesulphonate were added and stirring continued for 18 hours. For the working-up, the reaction mixture was evaporated under reduced pressure and the residue was directly submitted to chromatography on a Si—NH2 phase using a gradient of heptane/ethyl acetate=100/0 to 60/30 as the eluent. There were obtained 193 mg (77% of theory) of the title compound as a white foam; MS 418 (M+Na)+.

reactant | ((S)-7,8-difluoro-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(N[C@H]1CNC2=C(NC1=O)C=C(C(=C2)F)F)=O | C14H17F2N3O3
reactant | lithium bis(trimethylsilyl)amide | 1 M, 0.62 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulphonate | 0.13 ml | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | 2,2,2-trifluoroethyl trifluoromethanesulphonate | 0.05 ml | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
product | [(S)-7,8-Difluoro-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CNC2=C(N(C1=O)CC(F)(F)F)C=C(C(=C2)F)F)=O | C16H18F5N3O3
